US06043366
4-(p-tolyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide (1.62 g) was dissolved in 10 ml triethyl orthoformate and stirred at 150° C. for 15 hours. After cooling to room temperature, the reaction mixture was filtered and the light brown powder washed with ether to yield 8-benzyl-1-p-tolyl-1,3,8-triazaspiro[4,5]dec-2-en-4-one (0.99 g). M.p. 208-213° C.

reactant | 4-(p-tolyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide | 1.62 g | C1(=CC=C(C=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)N)C | C20H25N3O
reactant | triethyl orthoformate | 10 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-benzyl-1-p-tolyl-1,3,8-triazaspiro[4,5]dec-2-en-4-one | 0.99 g | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC=C(C=C2)C)=O)CC1 | C21H23N3O
